************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE391Lib
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Jan 15 20:27:19 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE391Lib
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter gnd in out vdd
*.PININFO in:I out:O gnd:B vdd:B
MM0 out in gnd gnd NMOS_VTG W=400n L=50n m=1
MM1 out in vdd vdd PMOS_VTG W=600n L=50n m=1
.ENDS

