************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: MUX2
* View Name:     schematic
* Netlisted on:  Feb  9 21:20:07 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter gnd in out vdd
*.PININFO in:I out:O gnd:B vdd:B
MM0 out in gnd gnd NMOS_VTG W=400n L=50n m=1
MM1 out in vdd vdd PMOS_VTG W=600n L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS391
* Cell Name:    MUX2
* View Name:    schematic
************************************************************************

.SUBCKT MUX2 A B S gnd out vdd
*.PININFO A:I B:I S:I out:O gnd:B vdd:B
XI0 gnd S S_bar vdd / inverter
MM1 out S_bar B gnd NMOS_VTG W=400n L=50n m=1
MM0 out S A gnd NMOS_VTG W=400n L=50n m=1
MM3 out S_bar A vdd PMOS_VTG W=600n L=50n m=1
MM2 out S B vdd PMOS_VTG W=600n L=50n m=1
.ENDS

