* File: /home/gel8580/CE391/Lab2/EECS391/NAND2/NAND2.pex.netlist.pex
* Created: Mon Feb  9 20:04:09 2026
* Program "Calibre xRC"
* Version "v2011.4_35.27"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_A 2 6 9 10 12 16 19 21
c24 21 0 0.00339108f
c25 19 0 0.00178213f
c26 16 0 0.0198113f
c27 12 0 0.0218597f
c28 10 0 0.00675953f
c29 9 0 0.00544243f
c30 6 0 0.029242f
c31 2 0 0.031077f
r32 25 29 5.46
r33 23 25 89.3538
r34 21 23 0.0438462
r35 15 19 4.56151
r36 15 16 49.92
r37 11 19 4.56151
r38 11 12 50.7
r39 10 29 2.6
r40 9 19 0.043368
r41 9 10 14.56
r42 5 29 1.98872
r43 5 6 49.92
r44 1 29 1.98872
r45 1 2 50.7
.ends

.subckt PM_NAND2_gnd 7 12 13 16
c16 16 0 0.0176042f
c17 13 0 0.0359774f
c18 7 0 0.0130482f
r19 12 13 0.257627
r20 10 16 0.077903
r21 10 12 0.199661
r22 6 16 0.137199
r23 6 7 1.63692
.ends

.subckt PM_NAND2_net19 3 5 8 9 12 14 15
c32 15 0 0.00154916f
c33 14 0 0.00911604f
c34 12 0 0.00779402f
c35 9 0 0.00283288f
c36 8 0 0.00674604f
c37 5 0 0.0169938f
c38 3 0 0.0134459f
r39 14 16 0.212317
r40 14 15 1.81231
r41 11 12 0.248462
r42 10 15 0.212317
r43 10 12 1.41769
r44 8 11 0.212317
r45 8 9 1.84154
r46 4 9 0.212317
r47 4 5 1.09615
r48 3 16 0.57
.ends

.subckt PM_NAND2_out 5 8 9 11 15 17 20
c32 20 0 0.00339669f
c33 17 0 0.00843731f
c34 11 0 0.0169666f
c35 9 0 0.00261661f
c36 8 0 0.00584333f
c37 5 0 0.00873972f
r38 20 21 0.0130137
r39 16 21 0.0440683
r40 16 17 1.22769
r41 11 15 1.75385
r42 10 20 0.0440683
r43 10 15 0.233846
r44 8 20 0.343817
r45 8 9 1.66615
r46 4 9 0.212317
r47 4 5 1.30077
.ends

.subckt PM_NAND2_B 2 6 9 12 16 19 23 27
c28 27 0 0.00945837f
c29 23 0 0.00376506f
c30 21 0 6.72026e-19
c31 19 0 0.00188048f
c32 16 0 0.0316598f
c33 12 0 0.0295044f
c34 9 0 0.00384359f
c35 6 0 0.0212165f
c36 2 0 0.0204264f
r37 25 27 89.3538
r38 23 25 0.0292308
r39 20 27 7.54
r40 20 21 1.95
r41 15 21 1.95
r42 15 16 55.77
r43 11 21 1.95
r44 11 12 44.85
r45 10 19 0.043368
r46 9 21 1.95
r47 9 10 14.56
r48 5 19 4.56151
r49 5 6 55.77
r50 1 19 4.56151
r51 1 2 44.85
.ends

.subckt PM_NAND2_vdd 7 10 13 15 18 23 24 26
c26 26 0 0.0125451f
c27 24 0 0.0025718f
c28 23 0 0.0058593f
c29 18 0 0.0232852f
c30 15 0 0.00980705f
c31 11 0 0.00798063f
c32 10 0 0.0148185f
c33 7 0 0.0181709f
r34 22 26 0.368951
r35 22 23 0.803846
r36 19 24 0.0845374
r37 18 23 0.248039
r38 18 19 0.900741
r39 14 24 0.126671
r40 14 15 0.701538
r41 11 13 0.372963
r42 10 24 0.0845374
r43 10 13 0.49963
r44 6 11 0.248039
r45 6 7 1.19846
.ends

