************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: NAND2
* View Name:     schematic
* Netlisted on:  Feb  9 20:41:40 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 A B gnd out vdd
*.PININFO A:I B:I out:O gnd:B vdd:B
MM1 out B net19 gnd NMOS_VTG W=800n L=50n m=1
MM0 net19 A gnd gnd NMOS_VTG W=800n L=50n m=1
MM3 out B vdd vdd PMOS_VTG W=600n L=50n m=1
MM2 out A vdd vdd PMOS_VTG W=600n L=50n m=1
.ENDS

