* File: inverter.pex.netlist.pex
* Created: Mon Feb  9 16:37:33 2026
* Program "Calibre xRC"
* Version "v2011.4_35.27"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_inverter_in 2 6 9 10 12 16 21
c18 21 0 0.00412725f
c19 19 0 0.00341984f
c20 16 0 0.0327239f
c21 12 0 0.0182254f
c22 10 0 0.00815745f
c23 9 0 0.0039447f
c24 6 0 0.0327239f
c25 2 0 0.0182254f
r26 25 29 7.29677
r27 23 25 89.3538
r28 21 23 0.306923
r29 15 19 4.67564
r30 15 16 58.89
r31 11 19 4.67564
r32 11 12 24.18
r33 10 29 2.51613
r34 9 19 0.112924
r35 9 10 14.0903
r36 5 29 2.11095
r37 5 6 58.89
r38 2 29 24.18
.ends

.subckt PM_inverter_out 3 7 8
c12 3 0 0.0275258f
r13 7 8 1.68662
r14 3 7 1.47031
.ends

.subckt PM_inverter_gnd 6 9 10 11 12 16 19
c14 12 0 0.00963642f
c15 11 0 0.0105366f
c16 10 0 0.01067f
c17 9 0 0.016267f
c18 6 0 0.00936462f
r19 16 18 0.0518182
r20 11 19 0.16742
r21 11 12 0.774615
r22 10 18 0.0748485
r23 9 19 0.101857
r24 9 10 0.713939
r25 5 18 0.194428
r26 5 6 0.774615
.ends

.subckt PM_inverter_vdd 6 9 10 11 14 18
c14 14 0 0.0184782f
c15 10 0 0.0117117f
c16 9 0 0.0281854f
c17 6 0 0.0182292f
r18 18 20 0.01
r19 13 14 1.19846
r20 10 20 0.065
r21 10 11 0.215
r22 9 13 0.286706
r23 9 11 0.405
r24 5 20 0.221706
r25 5 6 1.19846
.ends

