************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: precharge_circuit
* View Name:     schematic
* Netlisted on:  Mar 16 23:15:17 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    precharge_circuit
* View Name:    schematic
************************************************************************

.SUBCKT precharge_circuit BL BLB PRE_B VDD
*.PININFO PRE_B:I BL:B BLB:B VDD:B
MM2 BL PRE_B BLB VDD PMOS_VTG W=180.0n L=50n m=1
MM1 BLB PRE_B VDD VDD PMOS_VTG W=180.0n L=50n m=1
MM0 BL PRE_B VDD VDD PMOS_VTG W=180.0n L=50n m=1
.ENDS

