************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: small_inv
* View Name:     schematic
* Netlisted on:  Mar 17 00:04:36 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    small_inv
* View Name:    schematic
************************************************************************

.SUBCKT small_inv GND VDD in out
*.PININFO in:I out:O GND:B VDD:B
MM0 out in VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM1 out in GND GND NMOS_VTG W=90n L=50n m=1
.ENDS

