************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: sence_amp
* View Name:     schematic
* Netlisted on:  Mar 18 12:30:30 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    sence_amp
* View Name:    schematic
************************************************************************

.SUBCKT sence_amp BL BLB GND SE SE_out VDD
*.PININFO SE:I BL:B BLB:B GND:B SE_out:B VDD:B
MM8 BLB net25 SE_out VDD PMOS_VTG W=135.00n L=50n m=1
MM6 net25 SE VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM2 net15 net25 VDD VDD PMOS_VTG W=135.00n L=50n m=1
MM1 BL BLB net15 VDD PMOS_VTG W=135.00n L=50n m=1
MM0 BLB BL net15 VDD PMOS_VTG W=135.00n L=50n m=1
MM9 BLB SE SE_out GND NMOS_VTG W=90n L=50n m=1
MM7 net25 SE GND GND NMOS_VTG W=90n L=50n m=1
MM5 net17 SE GND GND NMOS_VTG W=90n L=50n m=1
MM4 BL BLB net17 GND NMOS_VTG W=90n L=50n m=1
MM3 BLB BL net17 GND NMOS_VTG W=90n L=50n m=1
.ENDS

