************************************************************************
* auCdl Netlist:
* 
* Library Name:  my_sram
* Top Cell Name: sram_6t_cell
* View Name:     schematic
* Netlisted on:  Mar 16 22:04:33 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: my_sram
* Cell Name:    sram_6t_cell
* View Name:    schematic
************************************************************************

.SUBCKT sram_6t_cell BL BLB GND VDD WL
*.PININFO GND:I VDD:I WL:I BL:B BLB:B
MM5 net13 net09 GND GND NMOS_VTG W=210.0n L=50n m=1
MM4 net09 net13 GND GND NMOS_VTG W=210.0n L=50n m=1
MM3 BLB WL net13 GND NMOS_VTG W=135.00n L=50n m=1
MM2 BL WL net09 GND NMOS_VTG W=135.00n L=50n m=1
MM7 net13 net09 VDD VDD PMOS_VTG W=90n L=50n m=1
MM6 net09 net13 VDD VDD PMOS_VTG W=90n L=50n m=1
.ENDS

